US08242125B2
101-A. (±)-5-{6-[(Methanesulfonyl-pyrrolidin-3-yl-amino)-methyl]-pyrimidin-4-yloxy}-indole-1-carboxylic acid (3-trifluoromethyl-phenyl)-amide
(±)-3-(Methanesulfonyl-{6-[1-(3-trifluoromethyl-phenylcarbamoyl)-1H-indol-5-yloxy]-pyrimidin-4-ylmethyl}-amino)-pyrrolidine-1-carboxylic acid tert-butyl ester (12 mg, 0.018 mmol) is stirred in a solution of DCM (2 mL) and TFA (0.5 mL) overnight. After removal of solvents, the residue is quenched with saturated aqueous sodium bicarbonate. The mixture is extracted with EtOAc (3×). The combined organic layers are washed with water and brine and the organic layer is dried with Na2SO4, filtered, and condensed. The residue is then separated by FCC (0-10%, 2 M NH3 in MeOH/DCM) to provide the title compound. MS (ESI) m/z 574.8 (M−1).

reactant | (±)-3-(Methanesulfonyl-{6-[1-(3-trifluoromethyl-phenylcarbamoyl)-1H-indol-5-yloxy]-pyrimidin-4-ylmethyl}-amino)-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.018 mmol, 12 mg | C(C)(C)(C)OC(=O)N1CC(CC1)N(CC1=NC=NC(=C1)OC=1C=C2C=CN(C2=CC1)C(NC1=CC(=CC=C1)C(F)(F)F)=O)S(=O)(=O)C | C31H33F3N6O6S
reactant | TFA | 0.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | (±)-5-{6-[(Methanesulfonyl-pyrrolidin-3-yl-amino)-methyl]-pyrimidin-4-yloxy}-indole-1-carboxylic acid (3-trifluoromethyl-phenyl)-amide | FC(C=1C=C(C=CC1)NC(=O)N1C=CC2=CC(=CC=C12)OC1=NC=NC(=C1)CN(C1CNCC1)S(=O)(=O)C)(F)F | C26H25F3N6O4S
